US07255779B2
Into a reaction flask were introduced 87.1 g of methyl 4-methyl-3-nitrobenzoate, 400 ml of methanol and 8 g of 5% palladium-carbon (Pd/C). The content of the flask was stirred at room temperature for 12 hours in an atmosphere of hydrogen at ordinary pressure. The Pd/C was removed by filtration, and methanol was distilled out from the filtrate to obtain a slightly yellow colored solid product. The product was dissolved in ethyl acetate, washed with 5% aqueous solution of NaOH, washed with 5% aqueous solution of hydrochloric acid and water, and the ethyl acetate was distilled off. Thus, 50.4 g (yield 68.7%) of methyl indole-6-carboxylate monomer was obtained.

reactant | methyl 4-methyl-3-nitrobenzoate | 87.1 g | CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | methanol | 400 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 8 g | [C].[Pd]
product | methyl indole-6-carboxylate | 50.4 g, yield 68.7% | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
